US09447083B2
2-Aminopyrimidin-5-ylboronic acid (0.76 g, 5.4 mmol) was dissolved in dimethoxyethane/water (2:1). 4-Bromo-2,6-dimethylphenol (0.91 g, 4.52 mmol) and Pd(dppf)Cl2 (0.19 g, 0.14 mmol), sodium carbonate (1.4 g, 14 mmol) were added thereto, followed by reacting in microwave reactor at 120° C. for 15 minutes. After the completion of the reaction, the reaction mixture was added with water, and extracted with dichloromethane. The obtained organic layer was dried over magnesium sulfate, concentrated under reduced pressure, and purified by column chromatography to obtain 4-(2-aminopyrimidin-5-yl)-2,6-dimethylphenol (0.27 g, 27%).

reactant | 2-Aminopyrimidin-5-ylboronic acid | 5.4 mmol, 0.76 g | NC1=NC=C(C=N1)B(O)O | C4H6BN3O2
reactant | 4-Bromo-2,6-dimethylphenol | 4.52 mmol, 0.91 g | BrC1=CC(=C(C(=C1)C)O)C | C8H9BrO
reactant | sodium carbonate | 14 mmol, 1.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
solvent | dimethoxyethane water | C(OC)COC.O
catalyst | Pd(dppf)Cl2 | 0.14 mmol, 0.19 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(2-aminopyrimidin-5-yl)-2,6-dimethylphenol | 0.27 g, 27% | NC1=NC=C(C=N1)C1=CC(=C(C(=C1)C)O)C | C12H13N3O
